US04943637
The same procedure as in Example 7 was repeated, except that secondary butanol 80 g was replaced by n-octanol 50 g, and that 2-nitro-2'-hydroxy-5'-t-butylazobenzene 19.9 g was replaced by 2-nitro-2'-hydroxy-3',5'-di-t-butylazobenzene 23.7 g, thus producing 18.7 g of 2-(2-hydroxy-3,5-di-t-butylphenyl)benzotriazole-N-oxide having a melting point of 168° to 171° C. at the yield of 83.0%.

reactant | secondary butanol | 80 g | C(C)(CC)O | C4H10O
reactant | 2-nitro-2'-hydroxy-5'-t-butylazobenzene | 19.9 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C(C)(C)C)O | C16H17N3O3
reactant | 2-nitro-2'-hydroxy-3',5'-di-t-butylazobenzene | 23.7 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C20H25N3O3
solvent | n-octanol | 50 g | C(CCCCCCC)O | C8H18O
product | 2-(2-hydroxy-3,5-di-t-butylphenyl)benzotriazole-N-oxide | 18.7 g, yield of 83.0% | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=[N+]1[O-])C=CC=C2 | C20H25N3O2
